US06515011B2
To a solution of L-prolin-N-(2-(2-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl)amide (0.50 g, 1.31 mmol), 1-hydroxybenzotriazole hydrate (0.215 g, 1.4), and 2R-hydroxy-2-phenylpropionic acid (0.215 g, 1.3 mmol) in DMF (15 mL) was added EDC (0.29 g, 1.5 mmol). To the stirred solution was added DIEA (approximately 0.14 mL) until the solution measured pH 6 on wetted E. Merck pH indicator strips. The mixture was stirred for 18 h at ambient temperature. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc (100 mL) and saturated aqueous sodium bicarbonate solution (50 mL). The organic phase was separated, dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography using 98:2 CH2Cl2:MeOH as eluant. The product-containing fractions were combined and removal of the solvent under reduced pressure gave 1-((2R)-2-hydroxy-2-phenylpropanoyl)-N-(2-(2-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl)-L-prolinamide as a gum (0.62 g; TLC Rf=0.3 (98:2 CH2Cl2:MeOH); HPLC RT=3.46 min, method A; LC-MS m/z=530).

reactant | L-prolin-N-(2-(2-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl)amide | 1.31 mmol, 0.50 g | C(C)(C)(C)OC(=O)NCCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C19H28ClN3O3
reactant | 1-hydroxybenzotriazole hydrate | 0.215 g | O.ON1N=NC2=C1C=CC=C2
reactant | EDC | 1.5 mmol, 0.29 g
reactant | DIEA | approximately 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-((2R)-2-hydroxy-2-phenylpropanoyl)-N-(2-(2-(tert-butyloxycarbonylamino)ethyl)-5-chlorobenzyl)-L-prolinamide | O[C@](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CCNC(=O)OC(C)(C)C)CCC1)(C)C1=CC=CC=C1 | C28H36ClN3O5
